US08859580B2
4-Methyl-2-phenethyl-pyridine
A mixture of 4-methyl-2-phenylethynyl-pyridine (18.2 g) and 10% palladium on carbon (2.0 g) in methanol (300 mL) is stirred under hydrogen atmosphere (50 psi) at ambient temperature until the triple bond is completely reduced (20 h). The mixture is filtered and the solvent is removed under reduced pressure.

reactant | 4-methyl-2-phenylethynyl-pyridine | 18.2 g | CC1=CC(=NC=C1)C#CC1=CC=CC=C1 | C14H11N
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | methanol | 300 mL | CO | CH4O
product | 4-Methyl-2-phenethyl-pyridine | CC1=CC(=NC=C1)CCC1=CC=CC=C1 | C14H15N
